US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(cyclobutylmethoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (64 mg) in 4 ml of cyclobutane methanol was stirred at room temperature and under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in cyclobutane methanol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. It was then isolated on a silica gel plate using ether, which elutes the cyclobutane methanol to the top of the plate (the plate was developed several times). This procedure gives 21.5 mg (29%) of the title compound, having a melting point of 83°-88° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 64 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | ether | CCOCC | C4H10O
reactant | cyclobutane methanol | 4 ml | C1(CCC1)CO | C5H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(cyclobutylmethoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 21.5 mg, 29% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCC1CCC1)C)=O)CC1C2N1)OC | InChI=1S/C19H24N2O5.CH3NO2/c1-9-15(23)14-13(16(24)17(9)26-8-10-4-3-5-10)11(7-22)19(25-2)18-12(20-18)6-21(14)19;2-1(3)4/h10-12,18,20,22H,3-8H2,1-2H3;2H2,(H,3,4)
